US07576208B2
11a. Synthesis of 4,5-Difluorobenzene-1,2-dimethanol—Compound 21
To a solution of LiAlH4 (1M in tetrahydrofuran) (11 ml, 11.0 mmol, 2.0 molar equivalents) cooled to −78° C. was added dropwise a solution of 4,5-difluorophtalic anhydrid (1.0 g, 5.4 mmol, 1 molar equivalent) in THF (5 ml). The reaction mixture was allowed to warm up to room temperature and then stirred at 70° C. for 2 hours. To this resulting solution cooled to 0° C. was added a 2M sodium hydroxide solution (5 ml) followed by cold water (5 ml) and THF (10 ml). The reaction mixture was then further extracted with THF (3 times 20 ml). The organic fractions were combined, washed with brine, dried over magnesium sulfate, filtered and concentrated in vacuum to give a light yellow solid. Purification by recrystallisation from acetone/hexane gave the title compound as light yellow needles (0.8 g, 85%). 1H NMR (300.13 MHz, DMSO) δ(ppm) 4.47 (d, J=5.30, 4H) 5.26 (t, J=5.30 Hz, 2H) 7.36 (t, J=10.10 Hz, 2H). 19F NMR (282.38 MHz, DMSO) δ(ppm) −142.27 (s).

reactant | LiAlH4 | 11.0 mmol, 1M, 11 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 4,5-difluorophtalic anhydrid | 5.4 mmol, 1 molar, 1.0 g | FC=1C=C2C(C(=O)OC2=O)=CC1F | C8H2F2O3
reactant | sodium hydroxide | 2M, 5 ml | [OH-].[Na+]
reactant | water | 5 ml | O | H2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4,5-Difluorobenzene-1,2-dimethanol | 0.8 g, 85% | FC=1C=C(C(=CC1F)CO)CO | C8H8F2O2
